US08461352B2
Preparation of trans-4-(tert-butoxycarbonylamino)cyclohexanol (A), method 2
Two 50 L three-neck round bottom flasks were each equipped with a mechanical stirrer and thermocouple. The flasks were placed in a cooling tub, and then each flask was charged with water (8.87 L) and trans-4-aminocyclohexanol (1479 g). After about 10 to 30 minutes, the trans-4-aminocyclohexanol had dissolved, and potassium carbonate (1774.6 g) was added to each flask. After about 10 to 20 minutes, the potassium carbonate had dissolved, and DCM (2.96 L) was charged to each flask. Boc anhydride (3082.6 g) in DCM (1479 mL) was then added to each flask at such a rate as to maintain the temperature at 20 to 30° C. An ice/water bath was used to control the exotherm and to accelerate the addition, which took approximately 1 to 2 hours. A suspension formed during the addition, and the reaction mixtures were allowed to warm to room temperature and stirred overnight, until the reaction was complete based on the disappearance of the Boc anhydride. Heptane (6 L) was then charged to each flask, and the mixtures were cooled to approximately 0 to 5° C. Solids were collected from each flask by filtration using the same filter. The combined solids were washed with heptane (6 L) followed by water (8 L). The solids were charged to an appropriately sized crock equipped with a mechanical stirrer. Water (12 L) and heptane (6 L) were added, and the resulting suspension was mechanically stirred for 30 to 60 minutes. The solids were collected by filtration and then washed on a filter with water (8 L) and heptane (8 L), air-dried on a filter for three days, and then dried under vacuum at 30 to 35° C. to a constant weight to provide the product as a white solid.

reactant | water | 8.87 L | O | H2O
reactant | trans-4-aminocyclohexanol | 1479 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | potassium carbonate | 1774.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Boc anhydride | 3082.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 1479 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.96 L | C(Cl)Cl | CH2Cl2
solvent | Heptane | 6 L | CCCCCCC | C7H16
product | trans-4-(tert-butoxycarbonylamino)cyclohexanol | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
